US07238696B2
Preparation of 5-(4-Benzylpiperazin-1-yl)-6-methoxy-1-phenyl-3-(phenyl-sulfonyl)-1H-indazole hydrochloride
A mixture of 5-(4-benzylpiperazin-1-yl)-6-methoxy-3-(phenylsulfonyl)-1H-indazole (448 mg, 0.97 mmol), phenylboronic acid (242 mg, 1.94 mmol), copper(II) acetate (271 mg, 1.50 mmol), pyridine (160 mg, 2.00 mmol) and 4 Å molecular sieves (1.0 g) in methylene chloride is stirred at room temperature for 48 h and filtered. The filtercake is washed with THF. The filtrates are combined and concentrated in vacuo. The resultant residue is chromatographed (silica gel, 60:40 and 80:20 ethyl acetate:hexanes as eluents) to afford the free amine of the title product as a white solid, 130 mg (25% yield). The free amine is dissolved in ethanol, treated with 4.0 M HCl in dioxane, and concentrated in vacuo to a solid residue. This solid is triturated with ethyl acetate to afford the title product as a white solid, mp: 210–212° C., identified by NMR and mass spectral analyses.

reactant | 5-(4-benzylpiperazin-1-yl)-6-methoxy-3-(phenylsulfonyl)-1H-indazole | 0.97 mmol, 448 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NNC2=CC1OC)S(=O)(=O)C1=CC=CC=C1 | C25H26N4O3S
reactant | phenylboronic acid | 1.94 mmol, 242 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 2.00 mmol, 160 mg | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 1.50 mmol, 271 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-(4-Benzylpiperazin-1-yl)-6-methoxy-1-phenyl-3-(phenyl-sulfonyl)-1H-indazole hydrochloride | 25% yield | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NN(C2=CC1OC)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C31H30N4O3S.ClH/c1-38-30-22-28-27(21-29(30)34-19-17-33(18-20-34)23-24-11-5-2-6-12-24)31(32-35(28)25-13-7-3-8-14-25)39(36,37)26-15-9-4-10-16-26;/h2-16,21-22H,17-20,23H2,1H3;1H
